US08084448B2
C. 5-(2-Hydroxy-4-thiazol-2-yl-phenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one
To a suspension of 5-(2-benzyloxy-4-thiazol-2-yl-phenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one (50 mg, 0.125 mmol) in CH2Cl2 (5 mL) at −10° C. is added BBr3 (1.0M in CH2Cl2, 0.68 mL) dropwise. The yellow mixture is stirred at −10° C. for 30 min. Water is added to the reaction mixture and the aqueous layer is separated and neutralized with 1N NaOH. The water is removed under reduced pressure and the residue is purified by reverse phase HPLC (MeCN/water/0.1% TFA) to afford the title compound as a light yellow solid: 1H NMR (D24.45 (s, 1H), 7.48-7.54 (m, 3H), 7.61 (d, J=4 Hz, 1H), 7.85 (d, J=4 Hz, 1H); (M−1)−=310.

reactant | 5-(2-benzyloxy-4-thiazol-2-yl-phenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 0.125 mmol, 50 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C=1SC=CN1)N1CC(NS1(=O)=O)=O | C18H15N3O4S2
reactant | BBr3 | 1.0M, 0.68 mL | B(Br)(Br)Br | BBr3
reactant | Water | O | H2O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 5-(2-Hydroxy-4-thiazol-2-yl-phenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | OC1=C(C=CC(=C1)C=1SC=CN1)N1CC(NS1(=O)=O)=O | C11H9N3O4S2
